US06492378B1
7-Nitro-2,3,3-trimethyl-3,4-dihydroisoquinolinium Iodide
7-Nitro-3,3-dimethyl-3,4-dihydroisoquinoline (1.0 g, 4.9 mmol) in acetone (100 ml) was treated with iodomethane (1 ml, 16 mmol). The mixture was stirred at 25° C. for 18 h and the resultant precipitate collected by filtration and dried; pale yellow powder (1.5 g, 88%).

reactant | 7-Nitro-3,3-dimethyl-3,4-dihydroisoquinoline | 4.9 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C2CC(N=CC2=C1)(C)C | C11H12N2O2
reactant | iodomethane | 16 mmol, 1 ml | IC | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 7-Nitro-2,3,3-trimethyl-3,4-dihydroisoquinolinium Iodide | [I-].[N+](=O)([O-])C1=CC=C2CC([N+](=CC2=C1)C)(C)C | InChI=1S/C12H15N2O2.HI/c1-12(2)7-9-4-5-11(14(15)16)6-10(9)8-13(12)3;/h4-6,8H,7H2,1-3H3;1H/q+1;/p-1
